US06265426B1
2-[3-(3,4-Dichloro-phenyl)-5-(3-dimethylaminomethyl-phenyl)-[1,2,4]triazol-1-yl]-ethanol hydrochloride (1:1)
Using 3-[5-(3,4-dichloro-phenyl)-2-(2-hydroxy-ethyl)-2H-[1,2,4]triazol-3-yl]-benzaldehyde and dimethylamine the title compound was afforded as a crude product which was chromatographed over SiO2 (Merck 230-400 mesh) using CH2Cl2/(2M NH3 in MeOH) 95:5, before salt preparation. The pure titled compound was obtained as a off-white amorphous foam (67.7% yield) after evaporation of all solvents under reduced pressure followed by drying under high vacuum (0.05 mmHg) at 50° C. for 2 h, MS: m/e=391.2 (M+H+).

reactant | 3-[5-(3,4-dichloro-phenyl)-2-(2-hydroxy-ethyl)-2H-[1,2,4]triazol-3-yl]-benzaldehyde | ClC=1C=C(C=CC1Cl)C=1N=C(N(N1)CCO)C=1C=C(C=O)C=CC1 | C17H13Cl2N3O2
reactant | dimethylamine | CNC | C2H7N
product | 2-[3-(3,4-Dichloro-phenyl)-5-(3-dimethylaminomethyl-phenyl)-[1,2,4]triazol-1-yl]-ethanol hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=NN(C(=N1)C1=CC(=CC=C1)CN(C)C)CCO | InChI=1S/C19H20Cl2N4O.ClH/c1-24(2)12-13-4-3-5-15(10-13)19-22-18(23-25(19)8-9-26)14-6-7-16(20)17(21)11-14;/h3-7,10-11,26H,8-9,12H2,1-2H3;1H
